US07709468B2
Step D: 8-Cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)imidazo[1,2-a]pyrazine
To a solution of 8-cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine (5.16 g, 13.2 mmol) in DCM (50 mL) and MeOH (50 mL) was added a solution of Oxone® (16.2 g, 26.4 mmol) in water (50 mL). After about 4 h of rapid stirring, the mixture was neutralized with saturated Na2CO3 solution and extracted with DCM. The combined organic phase was dried over Na2SO4 and concentrated. The crude material was purified by silica gel chromatography with heptane/EtOAc (gradient 50-100% EtOAc). After concentration, the residue was three times re-dissolved in DCM and re-concentrated to give 4.77 g (85%) of the title compound as a yellowish solid: LC/MS (Table 1, Method g) Rt=2.68 min; MS m/z: 424.1 (M+H)+.

reactant | 8-cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine | 13.2 mmol, 5.16 g | C1(CC1)CC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)SC | C21H18FN5S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 8-Cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)imidazo[1,2-a]pyrazine | 4.77 g, 85% | C1(CC1)CC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)S(=O)(=O)C | C21H18FN5O2S
